US08729068B2
A mixture of 250 mg of methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate, 0.081 mL of ethyl iodide, 142 mg of potassium carbonate, and 2.5 mL of DMF was stirred at 60° C. overnight. To the reaction mixture was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 243 mg of methyl 4-(2-{-4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](ethyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate as a yellow solid.

reactant | methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 250 mg | C(C)OC(=O)C1(CC1)NS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H39N3O8S2
reactant | ethyl iodide | 0.081 mL | C(C)I | C2H5I
reactant | potassium carbonate | 142 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | methyl 4-(2-{-4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](ethyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 243 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CC | C40H43N3O8S2
